US05273999
Preparation of 4-(5-Bromopentyloxy)-3-(3-ethoxy-3-oxopropyl)benzenepentanoic Acid Ethyl Ester
A mixture of 0.655 g (2.03 mmol) of 3-(3-ethoxy-3-oxopropyl)-4-hydroxybenzenepentanoic acid ethyl ester from the preceding example, 2.80 g (12.2 mmol) of 1,5-dibromopentane, 1.12 g (8.12 mmol) of anhydrous granular potassium carbonate, and 35 mL of 2-butanone was stirred at 92° C. for 22 hr. After being cooled to room temperature, the mixture was filtered through anhydrous magnesium sulfate and the solids were washed thoroughly with ethyl acetate and ether. The filtrate and washes were combined and concentrated in vacuo and the crude product was purified by flash chromatography on 80 g of silica gel, eluting with hexane-ethyl acetate (4:1). There was obtained 0.804 g (83.9%) of the title compound as a colorless oil.

reactant | 3-(3-ethoxy-3-oxopropyl)-4-hydroxybenzenepentanoic acid ethyl ester | 2.03 mmol, 0.655 g | C(C)OC(CCCCC1=CC(=C(C=C1)O)CCC(=O)OCC)=O | C18H26O5
reactant | 1,5-dibromopentane | 12.2 mmol, 2.80 g | BrCCCCCBr | C5H10Br2
reactant | potassium carbonate | 8.12 mmol, 1.12 g | C([O-])([O-])=O.[K+].[K+]
solvent | 2-butanone | 35 mL | CC(CC)=O | C4H8O
product | 4-(5-Bromopentyloxy)-3-(3-ethoxy-3-oxopropyl)benzenepentanoic Acid Ethyl Ester | 0.804 g, 83.9% | C(C)OC(CCCCC1=CC(=C(C=C1)OCCCCCBr)CCC(=O)OCC)=O | C23H35BrO5
